US08791287B2
Synthesis of (1R,2R)-3-(3-dimethylamino-1-ethyl-2-methoxypropyl)-phenol (tapentadol)
In 28 mL of methanesulfonic acid, (2R,3R)-3-(3-methoxyphenyl)-N,N,2-trimethylpentan-1-amine HCl (6.0 g, 0.022 moles) is dissolved, and methionine (4.7 g, 0.031 moles) is added to the solution. The reaction is stirred at the temperature of 75-80° C. for 16-20 hours. It is then cooled to 15-25° C. and the following is added: purified water (20 mL), slowly at this temperature. The pH is brought to the value of 10-11 by means of the addition of 28% NaOH (about 35 mL), maintaining the temperature below 50° C. Then, ethyl acetate (30 mL) is added to the mixture. The mixture is then stirred for 30 minutes and the organic phase is separated. The organic phase, with dark color, is filtered over a silica panel and washed with 30 mL of ethyl acetate. A yellowish transparent solution is obtained. The solvent is removed under vacuum, obtaining about 5.5 g of oil which, left at ambient temperature, solidifies.

reactant | (2R,3R)-3-(3-methoxyphenyl)-N,N,2-trimethylpentan-1-amine HCl | 0.022 moles, 6.0 g | Cl.COC=1C=C(C=CC1)[C@@H]([C@H](CN(C)C)C)CC
reactant | methionine | 0.031 moles, 4.7 g | N[C@@H](CCSC)C(=O)O | C5H11NO2S
solvent | methanesulfonic acid | 28 mL | CS(=O)(=O)O | CH4O3S
product | (1R,2R)-3-(3-dimethylamino-1-ethyl-2-methoxypropyl)-phenol | about 5.5 g | CN(C[C@@H]([C@H](CC)C=1C=C(C=CC1)O)OC)C | C14H23NO2
